US05385996
α-[4-(Hydroxymethyl)benzyloxy]styrene (Formula II, R1 =phenyl, R2 =4-HOCH2C6H4CH2 --).
This compound was prepared by lithium aluminium hydride reduction of α-(4-methoxycarbonylbenzyloxy)styrene: 1H NMR (CCl4) δ 2.65 (1H, t, J 4.5 Hz), 4.15 (1H, d, J 3 Hz), 4.43 (2H, d, J 4.5 Hz), 4.60 (1H, d, J 3 Hz), 4.80 (2H, s), 7.1-7.7 (9H, m).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | α-(4-methoxycarbonylbenzyloxy)styrene | COC(=O)C1=CC=C(COC(=C)C2=CC=CC=C2)C=C1 | C17H16O3
product | α-[4-(Hydroxymethyl)benzyloxy]styrene | OCC1=CC=C(COC(=C)C2=CC=CC=C2)C=C1 | C16H16O2
